US06329400B1
To a solution of (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxybutanoic acid (33.0 g, 148.7 mmol) in dichloromethane (300 mL) is added 2-tetrahydropyranyloxyamine (18.3 g, 156.1 mmol) and EDC (31.2 g, 163.5 mmol). The resulting solution is stirred at 23° C. for 16 h, then diluted with dichloromethane (500 mL) and washed sequentially with 1 N hydrochloric acid, saturated aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride solution. The reaction mixture is dried over magnesium sulfate and concentrated under reduced pressure to provide (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxybutanoic acid 2-tetrahydropyranyloxyamide as a foam (47.8 g, 100% yield).

reactant | (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxybutanoic acid | 148.7 mmol, 33.0 g | C1(=CC=CC=C1)CCC[C@@H](C(=O)O)[C@@H](C)O | C13H18O3
reactant | 2-tetrahydropyranyloxyamine | 156.1 mmol, 18.3 g | O1C(CCCC1)ON | C5H11NO2
reactant | EDC | 163.5 mmol, 31.2 g
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxybutanoic acid 2-tetrahydropyranyloxyamide | 47.8 g, 100% yield | O1C(CCCC1)ONC([C@@H]([C@@H](C)O)CCCC1=CC=CC=C1)=O | C18H27NO4
